US08476300B2
3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile
Add 3-bromothiophene-2-carbonitrile (93 mg, 494.6 μmol), palladium (II) acetate (12 mg, 53.4 μmol), tricyclohexylphosphine (21 mg, 74.9 μmol), cesium fluoride (336 mg, 2.2 mmol) to a solution of 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ylboronic acid hydrochloride (100 mg, 245.5 μmol) in ethanol (2 mL), and acetonitrile (8 mL). Purge the reaction vessel 3 times with nitrogen. Stir the mixture at 85° C. for 2 hours. Cool the mixture and filter. Wash the resulting solids with acetonitrile. Concentrate the combined filtrate and washes. Purify the residue by DOWEX ion exchange resin to obtain the crude product. Purify the crude product by Prep-HPLC to obtain the title compound (12 mg, 24.55 μmol).

reactant | 3-bromothiophene-2-carbonitrile | 494.6 μmol, 93 mg | BrC1=C(SC=C1)C#N | C5H2BrNS
reactant | tricyclohexylphosphine | 74.9 μmol, 21 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | cesium fluoride | 2.2 mmol, 336 mg | [F-].[Cs+]
reactant | 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-ylboronic acid hydrochloride | 245.5 μmol, 100 mg | Cl.OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)B(O)O
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | palladium (II) acetate | 53.4 μmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 3-(6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophene-2-carbonitrile | 24.55 μmol, 12 mg | OC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=C(SC=C1)C#N | C28H26N2O3S
